US07271274B2
A 500 mL round bottom flask equipped with a nitrogen adapter and a temperature probe was charged with 10.0 g (57 mmol, 1 eq) of (S)-(+)-2,2-dimethyl-5-oxo-1,3-dioxolane-4-acetic acid and 35 mL of anhydrous THF. The solution was cooled to 0° C. using an ice bath and 75 mL (75 mmol, 1.3 eq) of 1.0 M borane in THF was slowly charged. Upon complete addition, the flask was slowly warmed to ambient temperature and consumption of starting material was monitored by TLC. After stirring for 3 hours, starting material was consumed and the flask was cooled to 0° C. and quenched by the slow addition of 50 mL of methanol. The resulting solution was concentrated under reduced pressure at 25° C. The residue was dissolved in 100 mL of methanol and concentrated under reduced pressure at 25° C. The residue was dissolved in 100 mL of EtOAc and concentrated under reduced pressure and the clear oil was dried in vacuo to yield 9.3 g (58 mmol, 100% yield) of (S)-(+)-2,2-dimethyl-5-oxo-1,3-dioxolane-4-ethanol as clear colorless oil. 1H NMR (300 MHz, CDCl3) δ 4.58 (dd, J=5.03 and 7.49 Hz, 1H), 3.82–3.88 (m, 2H), 2.13–2.20 (m, 1H), 1.96–2.07(m, 1H), 1.64 (s, 3H), 1.57 (s, 1H).

reactant | (S)-(+)-2,2-dimethyl-5-oxo-1,3-dioxolane-4-acetic acid | 57 mmol, 10.0 g, 1 eq | CC1(OC([C@@H](O1)CC(=O)O)=O)C | C7H10O5
reactant | borane | 75 mmol, 1.0 M, 75 mL, 1.3 eq | B | BH3
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 35 mL | C1CCOC1 | C4H8O
product | (S)-(+)-2,2-dimethyl-5-oxo-1,3-dioxolane-4-ethanol | 58 mmol, 9.3 g, 100% yield | CC1(OC([C@@H](O1)CCO)=O)C | C7H12O4
